US05808062
3-[(2,6-Dimethylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (1.95 g, 10.14 mmol) and diethyl ester of [(2,6-dimethylphenyl)thio]propanedioic acid (2.0 g, 6.8 mmol). m.p. 248°-249° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.47 (s, 6H), 6.75 (s, 1H), 7.08 (m, 3H), 7.39 (m, 3H), 7.78 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 10.14 mmol, 1.95 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2,6-dimethylphenyl)thio]propanedioic acid | 6.8 mmol, 2.0 g | CC1=C(C(=CC=C1)C)SC(C(=O)O)C(=O)O | C11H12O4S
product | 3-[(2,6-Dimethylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | CC1=C(C(=CC=C1)C)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C19H16O3S
